US06777414B1
Ethyl 4-fluorobenzoate (20.1 g) was dissolved in dimethyl sulfoxide (50 ml). Piperazine (31.1 g) was added to the solution, and the mixture was stirred at 120° C. for 2 hr. The reaction solution was poured into 1.2 liters of ice water. The precipitated crystal was washed with a mixed solution composed of hexane (500 ml) and diethyl ether (50 ml), was collected by filtration, and was dried under the reduced pressure to give 24.3 g (86.8%) of ethyl 4-(piperazin-1-yl)benzoate.

reactant | Ethyl 4-fluorobenzoate | 20.1 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | Piperazine | 31.1 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | ethyl 4-(piperazin-1-yl)benzoate | 24.3 g, 86.8% | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
